US03962223
A current of gaseous hydrogen chloride was passed for 15 minutes through a mixture of 541 mg of tert.-butyl DL cis 7-tritylamino-3-isopropyl-3-cepheme-4-carboxylate in 11 ml of nitromethane on an ice bath and the mixture was then evaporated to dryness. The residue was taken in ether and was vacuum filtered. The precipitate was washed with ether, dried and dissolved in 1 ml of water. The pH was adjusted to 4 with pyridine addition and the mixture was vacuum filtered. The crystals recovered were washed with water, then acetone and ether and dried to obtain 204mg of DL cis 7-amino-3-isopropyl-3-cepheme-4-carboxylic acid melting at 230°C with decomposition. The product occurred as colorless crystals slightly soluble in water, ethanol and acetone and insoluble in ether.

reactant | hydrogen chloride | Cl | ClH
reactant | cis 7-tritylamino-3-isopropyl-3-cepheme-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1[C@@H]2N(C(=C(CS2)C(C)C)C(=O)[O-])C1=O
solvent | nitromethane | 11 ml | [N+](=O)([O-])C | CH3NO2
product | cis 7-amino-3-isopropyl-3-cepheme-4-carboxylic acid | N[C@@H]1[C@@H]2N(C(=C(CS2)C(C)C)C(=O)O)C1=O | C10H14N2O3S
